US09034866B2
Synthesis of ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-oxirane]-2-carboxylate
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of S,S-dimethylmethanesulfinyl iodide (1.15 g, 5.23 mmol, 1.60 equiv), t-BuOK (4 mL, 1.20 equiv) in dichloromethane (5 mL) at room temperature After 30 minutes a solution of ethyl 9-bromo-4-oxo-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (1.2 g, 3.26 mmol, 1.00 equiv) in dichloromethane (10 mL) was added slowly. The resulting solution was stirred for 5 h at room temperature, quenched with water, extracted with dichloromethane, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:19) to give 600 mg (48%) of the titled compound as a off-white solid; LC-MS 382,384[M+H]+.

reactant | S,S-dimethylmethanesulfinyl iodide | 5.23 mmol, 1.15 g, 1.60 equiv | CS(=O)(C)(C)I | C3H9IOS
reactant | t-BuOK | 4 mL, 1.20 equiv | CC(C)(C)[O-].[K+]
reactant | ethyl 9-bromo-4-oxo-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 3.26 mmol, 1.2 g, 1.00 equiv | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)=O)C=C1 | C14H10BrNO4S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-oxirane]-2-carboxylate | 600 mg, 48% | BrC1=CC2=C(OCC3(OC3)C3=C2N=C(S3)C(=O)OCC)C=C1 | C15H12BrNO4S
